US08580812B2
In Scheme I, dicarboxylic acid dimethyl ester 1 is prepared by reaction of the 3-pyridylcarbinol analogue with O-mesitylenesulfonylhydroxylamine in the presence of acetylene dicarboxylic acid dimethyl ester. Reaction of 1 with aqueous H2SO4 affords the 4-hydroxymethylpyrazolo[1,5-a]pyridine-2-carboxylic acid analogue, which is converted to the ethyl ester 2 by reaction with acetyl chloride in absolute ethanol. Oxidation of 2 with Jones reagent yields carboxylic acid 3, which is converted to amide 4 by reaction with an appropriate amine in the presence of BOP.

reactant | 3-pyridylcarbinol | N1=CC(=CC=C1)CO | C6H7NO
reactant | O-mesitylenesulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | acetylene dicarboxylic acid dimethyl ester | COC(=O)C#CC(=O)OC | C6H6O4
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 4-hydroxymethylpyrazolo[1,5-a]pyridine-2-carboxylic acid | OCC=1C=2N(C=CC1)N=C(C2)C(=O)O | C9H8N2O3
